### PR TITLE
[Merged by Bors] - feat(RingTheory): prime is restriction of a prime iff it is the restriction of its extension

### PR DESCRIPTION
**Pull request by chrisflav**
Co-authored by: Sihan Su <ssh@stu.pku.edu.cn>
Co-authored by: Yi Song <sif4delta0@mail.ustc.edu.cn>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Ideal.lean [hunk 1]
```diff
@@ -72,6 +72,28 @@ theorem mem_map_algebraMap_iff {I : Ideal R} {z} : z ∈ Ideal.map (algebraMap R
     rw [← Ideal.unit_mul_mem_iff_mem _ (map_units S s), mul_comm]
     exact h.symm ▸ Ideal.mem_map_of_mem _ a.2
 
+lemma algebraMap_mem_map_algebraMap_iff (I : Ideal R) (x : R) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Ideal.lean:75]: This can be easier proved with `IsLocalization.mk'_one` and `mk'_mem_map_algebraMap_iff` below

Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Ideal.lean:83]: Oh good catch, done.

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 2]
```diff
@@ -37,6 +37,32 @@ section CommRing
...
+      ((IsLocalization.isPrime_iff_isPrime_disjoint M _ m).mp inferInstance).right
+    refine ⟨q, inferInstance, le_antisymm (fun x (hx : x ∈ f ⁻¹' q) ↦ ?_) ?_⟩
+    · have : x ∉ p.primeCompl := by
+        intro ha
+        apply (Set.disjoint_right.mp hd) hx
+        use x
+        simpa
+      simpa [Ideal.primeCompl] using this
+    · rw [← hp, ← Ideal.map_le_iff_le_comap, Ideal.map_comap_map, ]
+      simpa only [q, ← Ideal.map_le_iff_le_comap]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:62]:
```suggestion
  · have {q : Ideal S} : Disjoint (q : Set S) (p.primeCompl.map f) ↔ q.comap f ≤ p := by
      rw [disjoint_comm]
      simp [Set.disjoint_iff, Set.ext_iff, Ideal.primeCompl, not_imp_not, SetLike.le_def]
    obtain ⟨q, hq₁, hq₂, hq₃⟩ := Ideal.exists_le_prime_disjoint _ _ (this.mpr hp.le)
    exact ⟨q, hq₁, le_antisymm (this.mp hq₃) (map_le_iff_le_comap.mp hq₂)⟩
```
More golf. And maybe make the `have` into its own lemma?

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
